US08735362B2
Step B: 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-N-(2-ethyl-3-oxo-isoxazolidin-4-yl)-benzamide
A pre-cooled solution of 5M sodium hydroxide (0.09 ml) was added to a solution of hydroxylamine (50% in water, 0.024 ml) at 5° C. (ice bath). The solution was stirred for 15 min at 5° C. then added to a vigorously stirred solution of 4-[3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-N-((R)-2-ethyl-3-oxo-isoxazolidin-4-yl)-2-methyl-benzamide (100 mg) and anthracenyl-methyl quininium bromide (20 mg) (Step A) in dichloroethane (1 ml) cooled in an ice-acetone bath. The mixture was stirred rapidly at 0° C. for 4 hours. The reaction mixture was diluted with dichloromethane, passed through an isolute phase separating cartridge and concentrated in vacuo to leave yellow oil. This residue was purified by chromatography on silica gel (eluent: heptane/ethyl acetate 5%) to give the title compound (9 mg). The product was analysed by chiral HPLC (method H): 18.7 min (42.5%), 19.6 min (24.2%), 21.4 min (8.5%), 22.8 min (24.8%).

reactant | sodium hydroxide | 5M, 0.09 ml | [OH-].[Na+]
reactant | hydroxylamine | 0.024 ml | NO | H3NO
reactant | 4-[3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-N-((R)-2-ethyl-3-oxo-isoxazolidin-4-yl)-2-methyl-benzamide | 100 mg | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C1=CC(=C(C(=O)N[C@H]2C(N(OC2)CC)=O)C=C1)C)C(F)(F)F | C23H19Cl2F3N2O4
solvent | dichloroethane | 1 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-N-(2-ethyl-3-oxo-isoxazolidin-4-yl)-benzamide | 9 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NC2C(N(OC2)CC)=O)C=C1)C)C(F)(F)F | C23H20Cl2F3N3O4
